US03944675
N-(3,4-Difluorophenyl)-1-adamantanecarboxamide
Subject 2.29 g. of adamantane carboxylic acid chloride (11.5 mmoles) 1.29 g. of (10 mmoles) 3,4-difluoro-aniline and 4.0 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from ethyl ether to yield the title product, m.p. 168.5°-170°C.

reactant | adamantane carboxylic acid chloride | 11.5 mmoles, 1.29 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 3,4-difluoro-aniline | 10 mmoles | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(3,4-Difluorophenyl)-1-adamantanecarboxamide | FC=1C=C(C=CC1F)NC(=O)C12CC3CC(CC(C1)C3)C2 | C17H19F2NO
